US07342029B2
N-(1-carbamoyl-2-phenylsulfanylethyl)-2-pyridin-4-yl-1H-indole-5-carboxamide
0.20 g (0.84 mmol) of 2-pyridin-4-yl-1H-indole-5-carboxylic acid was admixed with 0.21 g (1.07 mmol) of 2-amino-3-phenylsulfanylpropionic acid in 40 ml of DMF and, at 0° C., 0.66 g (1.27 mmol) of benzotriazol-1-yloxytripyrrolidinophosphonium hexafluorophosphate and 0.37 ml (2.12 mmol) of N-ethyl-N,N-diisopropylamine were added, and the solution was stirred at 20° C. for 2 h. The solution was concentrated under reduced pressure and purified by medium pressure column chromatography (CH2Cl2/CH3OH:9:1). This gave 0.19 g (54%) of N-(1-carbamoyl-2-phenylsulfanylethyl)-2-pyridin-4yl-1H-indole-5-carboxamide.

reactant | 2-pyridin-4-yl-1H-indole-5-carboxylic acid | 0.84 mmol, 0.20 g | N1=CC=C(C=C1)C=1NC2=CC=C(C=C2C1)C(=O)O | C14H10N2O2
reactant | 2-amino-3-phenylsulfanylpropionic acid | 1.07 mmol, 0.21 g | NC(C(=O)O)CSC1=CC=CC=C1 | C9H11NO2S
reactant | benzotriazol-1-yloxytripyrrolidinophosphonium hexafluorophosphate | 1.27 mmol, 0.66 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | N-ethyl-N,N-diisopropylamine | 2.12 mmol, 0.37 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | N-(1-carbamoyl-2-phenylsulfanylethyl)-2-pyridin-4-yl-1H-indole-5-carboxamide | C(N)(=O)C(CSC1=CC=CC=C1)NC(=O)C=1C=C2C=C(NC2=CC1)C1=CC=NC=C1 | C23H20N4O2S
